US06265426B1
3-Dimethylaminomethyl-benzonitrile
A mixture of 3-(bromomethyl)-benzonitrile (3 g, 15.3 mmol) and a solution of 40% dimethylamine in water was heated in a sealed teflon vessel under microwave irradiation (7 min, 600 watts, 150° C., 11 bar). After cooling the resulting mixture was partioned between water and ether, the aqueous phase was extracted three times with ether, washed with satd. NaCl then dried with Na2SO4 and the solvent evaporated. The resulting yellow oil was distilled in a Kugelrohr apparatus at 60-80° C. and 0.002 mbar affording the title compound (1.53 g, 9.55 mmol, 62% yield) as a pale yellow oil. MS: m/e=160 (M+).

reactant | 3-(bromomethyl)-benzonitrile | 15.3 mmol, 3 g | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | dimethylamine | CNC | C2H7N
reactant | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-Dimethylaminomethyl-benzonitrile | 9.55 mmol, 1.53 g, 62% yield | CN(C)CC=1C=C(C#N)C=CC1 | C10H12N2
